US08114872B2
1-(6-Fluoro-pyridin-3-yl)-ethylamine
Hydrogenate 5-(1-azido-ethyl)-2-fluoro-pyridine (4.09 g, 24.59 mmol) under a 60 psi pressure in ethanol (200 mL) in the presence of PtO2 (6% w/w). Filter the mixture after 4 h, remove the solvent on a rotovap, and dry the resulting oil under vacuum to obtain the title compound (3.15 g). GCMS m/z 140 [M]+.

reactant | 5-(1-azido-ethyl)-2-fluoro-pyridine | 24.59 mmol, 4.09 g | N(=[N+]=[N-])C(C)C=1C=CC(=NC1)F | C7H7FN4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 1-(6-Fluoro-pyridin-3-yl)-ethylamine | 3.15 g | FC1=CC=C(C=N1)C(C)N | C7H9FN2
